US05559266
i) 1-Chloro-1-phenylmethyl Phenyl Carbonate
Phenyl chloroformate (3.0 g, 19.2 mmol) and benzaldehyde (2.4 g, 23.0 mmol) were dissolved in 1,2-dichloroethane (15 ml) and pyridine (0.09 g, 1.14 mmol) was added dropwise to the stirred solution. Stirred at 80° C. for two days and at 100° C. for one day. Washed with water (25 ml), the aqueous phase was back-extracted with dichloromethane (25 ml). The combined organic phases were dried (MgSO4) and concentrated. Purified by flash chromatography (Silikagel 60, petroleum ether/ethyl acetate 95 5). Yield: 1.5 g. 1H-NMR (CDCl3): delta=7.34 (CH); 7.20-7.61 ppm (phenyl). GC/MS: 262.1 (M+).

reactant | Phenyl chloroformate | 19.2 mmol, 3.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | benzaldehyde | 23.0 mmol, 2.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | pyridine | 1.14 mmol, 0.09 g | N1=CC=CC=C1 | C5H5N
reactant | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-1-phenylmethyl Phenyl Carbonate | C(OC(C1=CC=CC=C1)Cl)(OC1=CC=CC=C1)=O | C14H11ClO3
